### PR TITLE
Definitions of P, NP, polynomial time and space bounding, reductions

### PR DESCRIPTION
**Pull request by BilelGho**
issue #18

### CODE REVIEW

File: Complexity_classes_def/P.thy [hunk 1]
```diff
@@ -331,4 +343,140 @@ definition NP_hard :: "lang set" where
...
+       \<and> (\<forall>x. \<exists>f.    length f \<le> s_red ( length x )
+                   \<and> (\<forall>s. s ''input'' = x \<longrightarrow> (\<exists>t s'. (imp_to_sat,s) \<Rightarrow>\<^bsup> t \<^esup> s' \<and> 
+                                          s' ''input'' = f \<and> t \<le> t_red(length x)))
+                   \<and> ( f \<in> IMP_SAT \<longleftrightarrow>
+                                        (\<exists>z. \<forall>s t s'. s ''input'' = x 
+                                                      \<and> s ''certificate'' = z 
+                                                      \<and>(v, s) \<Rightarrow>\<^bsup> t \<^esup> s' \<longrightarrow> s' ''input'' >0)
+                                        )
+                      )"
+  sorry
```
Comment (BilelGho) [inline Complexity_classes_def/P.thy]: @maxhaslbeck thoughts about this version of this main-lemma ?

Comment (maxhaslbeck) [reply Complexity_classes_def/P.thy]: obviously you have a typo: `v` and `c` in `main_lemma` should be the same.
The proof runs through with the fix. Good work!

Okay, I'll try to phrase your `main_lemma` in natural language:

Let `c` be a `IMP-` program and `p :: nat => nat` a growth function with the following properties:
- `p` is polynomially bounded
- `c`terminates on every input state `s`, with running time bounded by `p N`, where N is the size of the input.
- the computation of `c` only depends on the initial values of registers ''input'' and ''certificate''

Then, there is an `IMP-` program `imp_to_sat` that computes from any input `x` a Propositional Formula `f(x)` that is SAT iff **there exists a certificate** `z` such that c[x,z] returns true.
Formally,
- two growth functions ensure time (`t_red`) and space (`s_red`) consuption of the reduction
- `imp_to_sat` leaves the register ''certificate'' untouched
- the size of the formula `f` is bounded in the size of the input
- `imp_to_sat` computes `f` in time bounded by `t_red`
- `f`is SAT iff **there exists a certificate** `z` such that c[x,z] returns true.

Questions:
- the running time of `c` is independent of the size of the certificate. Whats the consequence of that? artificially padding the certificate is made impossible by that?
- thinking from the other end I suspect that the `there exists a z` should not be in the main lemma. the role of `imp_to_sat` is to put the deterministic computation into a propositional formula. The work of finding the satisfying assignment/the certificate should **not** be included in the reduction, does it? @notiho, @mabdula what do you think about it?

Minor comment:
- the name `length` may be misleading, and confused with the length of a list.

Comment (maxhaslbeck) [reply Complexity_classes_def/P.thy]: Having thought about it a bit more, I think the `there exists a certificate` is fine. It means, that in the final propositional formula, there must be popositional variables for the input 'certificate', which the SAT solver then has to find a satisfying assignment for.

Comment (BilelGho) [reply Complexity_classes_def/P.thy]: First Thanks .

Your natural language interpretation of the main-lemma is what it is was expected to be. This should be a good sign ! 
I'd add only one thing item to the results to be shown: the result of `imp_to_sat` does only depend of the `input` register. This is kind of mentioned in the same statement that says that  the computation of `f(x)` is bounded by `t_red`  (just like the code c depending only on `input` and `certificate`) 
 
Answering the questions: 
- I am not really sure I understand what do you mean by padding the certificate. But I'll explain the motivation behind excluding the size of the certificate. the literature (that I know of) uses only the input for defining polynomial verifiers and thus NP. See for instance Definition 6.7 of the [slides of Einführung in die Theoretische Informatik](https://www21.in.tum.de/teaching/theo/SS20/folien-handout.pdf)  .
And it kind of makes sense. Had we included the certificate in the time bound function, then a problem like [PCP](https://en.wikipedia.org/wiki/Post_correspondence_problem) would be in NP. since a certificate could be a solution of the PCP instance. The instance with the certificate is verifiable in polynomial time wrt to the length of the certificate. This is of course wrong proof that PCP is in NP, because we know for instance that PCP is not even decidable. The flaw in the proof is that certificate could get indefinitely long. In the same reasoning, also the halting problem would be NP. As  the existence of a sequence of small step configurations / TM configurations. In order to do that we should either require a bound on the size of certificate of belonging to the set wrt to the size of input, or exclude the certificate size as I did here.

- For the second question, that is exactly what I was going to say (what you later said). The reduction should by definition only take the input x and gives us a formula. So I guess there's no avoiding  `there exists a certificate`. So the formula will kind have to include the constraints you should have on a certificate. So the existence of the assignment means the existence of a certificate. (Although I wish we could just include finding the certificate in the reduction. That would be a literally a million dollar achievement  )

PS: what do you recommend changing the name of `length` to ?
PS: Yes that was a typo and I fixed it now. I freaked out when I realised that but thank god it had miraculously no effect on the correctness of the proof.

Comment (BilelGho) [reply Complexity_classes_def/P.thy]: Back on the issue of the first question and the definition of NP in general. 

Thank you for your question about that issue because I think it is an important search topic for the validity of our definitions and models. 

It looks that for example that "The nature of computation" does suggest a definition of NP that uses the other alternative as what I did. It includes the certificate in the running time bound, but puts a bound on the certificate. I pondered a little bit about whether the 2 definitions are equivalent. Going from the certificate length bounded definition to the one that is not is trivial for every model of computation. The other direction works on a TM since having a time limit always mean a space limit. So a very long certificate is to be implicitly truncated. Our IMP- model doesn't guarantee this condition in general. Yet we know something about our well formed verifiers. The result only depends of the input and the certificate. So for a fixed input , there exists some "maximal certificate" which is a number from which every certificate behaves like infinity (Since the input is fixed and everything else is a constant). this maximal certificate is polynomially bound for sure. I do believe nonetheless that a proof of that would not be really easy. Direct induction alone wouldn't be much helpful since when a program's result doesn't depend of some variable. This doesn't mean it is the case for every part of it. 

So I say for the moment, we do pick the definition that will help the most in proving the main-lemma. If the reduction will need as info that a certificate if exists has to be bounded or that time bound depends from the certificate length. Then one could edit the definition of NP to explicitly mention that and do the changes that need to be done. If not, I say we stick with the actual one. It seems the one keeping us from much trouble. 

A really better scenario would be being able to prove that our definition of NP is enough to put an upper bound on the certificate. But I am not sure we do have the infrastructure for it.

Comment (BilelGho) [reply Complexity_classes_def/P.thy]: @maxhaslbeck  @notiho  @mabdula  . Did update the main-lemma so that the reduction says (not directly ofc but through the resulting SAT-formula) for a well known and fixed polynomial upper bound , whether a certificate that is bounded with aforementioned bound works with the given x. 

Merry Christmas and I am looking forward to your feedback when available again !

Comment (BilelGho) [reply Complexity_classes_def/P.thy]: PS: main-lemma is in the last commit line 403 of P.thy (the only file I'm working on , on the moment)

File: Complexity_classes_def/P.thy [hunk 2]
```diff
@@ -401,10 +401,11 @@ definition IMP_SAT :: "nat set" where
 "IMP_SAT == encode_sat ` {n. sat n}"
 
 lemma main_lemma : 
-  fixes c p
-  assumes "poly p"
-  assumes "\<forall>s. \<exists>t. Ex (big_step_t (c, s) t) \<and> t \<le> p (length (s ''input''))"
-  assumes " \<forall>x z. \<exists>r. \<forall>s. s ''input'' = x \<and> s ''certificate'' = z \<longrightarrow>
+  fixes c pt p_cer
```
Comment (BilelGho) [inline Complexity_classes_def/P.thy]: New main-lemma:
Before reading it , you shpould know I added the following assumption to the definition of a polynomial verifier: 
"if a valid certificate exists, then there's a  valid certificate that is polynomially bounded in terms of the input length" Let's call this what "a bound on the certificate length" means.
Now the lemma 
fixing:
 - a verifier code c: 
- a polynomial time bound of the verifier 
- a polynomial certificate bound of the verifier

we assume the things that I thought it might be helpful to assume, which are convenient with our defintions :
- the verifier's code always terminates on a polynomial time in terms of input length. (and only the input ,not the certificate)
I just assumed that all verifiers would terminate immediately if they realised the certificate is too big. In a SAT formula that could mean a certificate that is bigger than the formula and so on.  Due the certificate bound, it shouldn't actually be a problem for stating cook-levin because a polynomial time bound leads to the other.

I don't claim this (a time bound only in terms of the input length ) is really necessary. 
Pros: 
* It does makes things easier as it does provide a unified simple definition of time bound for both deciders and verifiers. Thus made it easier to state cook-levin. 
Cons: 
* Proving a problem is NP (without reduction /for example: SAT) could be a bit harder since the time bound is a bit harsher. the verifier should get sure the certificate isn't too long as said.

I don't know what is actually more helpful for the reduction, or is it even related? Anyway we could change it in the definition of NP and in the main-lemma if necessary

also to be assumed:
-   a result of a verifier is only dependent on the input and the certificate. (Pretty obvious)
The assumptions also give a polynomial bound on the certificate without saying that "a certificate is bounded" , because I thought it is irrelevant to the work of the reduction. The reduction should just use this bound and tell whether a certificate exists under this bound. It doesn't need for that to know that the certificate is inherently bounded.

To be shown through the work that is to be done: 
- There exists a reduction that takes the input of  the verifier, gives back a  SAT formula that is satisfiable iff there exists a certificate under the given bound that would be accepted with the given input. 
- The reduction should have some polynomial bound in time in terms of length of the input and give a formula that is polynomially bounded in length.
- The reduction shouldn't user the register certificate (Well there's an infinity of registers, so ..)

If some assumptions are irrelevant to the work, they could be easily removed, if others are needed, please let me konw.

File: Complexity_classes_def/P.thy [hunk 3]
```diff
@@ -401,10 +401,11 @@ definition IMP_SAT :: "nat set" where
 "IMP_SAT == encode_sat ` {n. sat n}"
```
Comment (BilelGho) [inline Complexity_classes_def/P.thy]: I think we should mention a time and space bound on encode and decode (This has no effect whatsoever on our work). But so that our work really reflects the meaning of complexity classes, the encoding/decoding should be in polynomial time, otherwise, one could cherat and use the decoding to kind of solve the problem inside.Thus every decidable problem could be in P/NP that way.

**Review by BilelGho — COMMENTED** [review]
Main-lemma update and little remark on encoding/decoding

**Comment by BilelGho** [comment]
TODO:  further explanation on the approach of defining P/ NP, what worked and what did not.

So .. ehm.. Here we go. Let's begin by defining/explaining the abstractions used in the theory:
# Abstractions of the theory
## The most basic dual, computing and verifying:
### Definitions
- **comp** : ``comp c x r``  is a predicate that means that the code c will compute for the input x , the result r. More formally, if you run the code c on a state where the register `input` contains the value `x`, the code will halt with a state where the register `input` contains the value `r`. Using the same register `input` for input and output is a designer choice, to allow easy composition of functions through direct sequencing of codes (otherwise you'd always need to transfer the data between registers between both codes). For each code ``comp c`` will define a binary relation in ``nat``. Due to the determinism of `IMP-` semantics, we do prove it is actually a partial function. This is expressed by the lemma ``comp_det`` that is defined as : ``comp c x r ==> comp c x r' ==> r=r' ``  it IS a life saver. You could  think of ``comp c`` as the partial function computed by the code c.    comp is useful for defining reductions and deciders which will come later.
- **verif** : abstracts the concept of 'verifying' instead of computing. Really similar to ``comp`` yet involves also a certificate.
``verif c x z r`` means that the code c does verify for input x and certificate z the result r. It has the same  formal idea as comp. Applying the code c on any state with register `input` with value x , `certificate` with value z, will result in halting with a state with the register ``input``  containing r.  As the name says this will be useful to define verificators. You might expect verifying to return a boolean value, but it is helpful to be more specific in the course of our work and to specify the exact `nat` the verifier is returning. We do semantically consider a non zero value as True and 0 as False. Analogously to comp, verif does define a relation that we can prove to be partial function.

Remark: the universal and existential quantifiers, are kind of similar and easy to confuse in the context of  using `IMP-` semantics to define our abstractions due to the determinism of our semantics. Although there's still a difference. The universal quantifier does not exclude the possibility of the computation not halting, so you're saying if it halts then so and so is going to happen. The existential does give us a more precise info. The computation will halt and give us such a result. We know in both cases that no more than one computation might happen/halt . But we don't know if at least one will halt.
 ### Properties: 
- **Determinism** for both `comp` and `verif`: `comp_det`` that is defined as : ``comp c x r ==> comp c x r' ==> r=r' `` and its analogous for `verif`.
- **Composition**: 
    - composing two computations will result into a computation. ie: ``[| comp f x y ; comp g y z |] ==> comp (f;;g) x z ``. Results from the big step semantics definition
    - composing a computation and a verification will result into a verification will result into a verification, given that the computation does conserve the certificate.
## Deciders, Reductions and verifiers:
### Definitions:
By lifting the aforementioned abstractions to the language level (A language is formally defined as a `nat set`) one could easily obtain definitions for deciders, reductions and verifiers, that we enunciate informally:
- an IMP- program   **decides** a language _L_ iff it computes for every `nat` _x_ some result _r_ (i.e. computing a total function , doesn't mean the same result for all x) and that result is non-zero iff _x_ is in _L_.
- an IMP- program **verifies ** a language _L_ (the analogy continues) iff if is total (a result with verif exists for every input and certificate) and there exists a certificate that gives  a non zero result with a specific input iff the input is in the language.
- an IMP- program is a **reduction** from L to L'. iff it computes a result for every input and the result is in L' iff the input is in L. The reduction should also conserve the register ``certificate``. i.e. the reduction code does always halt on a state where the register stays the same it was at the initial state. This might look as weird side effect requirement and the reason is purely technical. We aim to obtain a verifier for a new language when we sequence a reduction and a base verifier. This will be ruined if our reduction is mean enough to delete our certificate. Even if we didn't need the content of that register. It wouldn't cause any harm to prevent using that register in a machine with infinite registers.
### Properties:
The most important here is that the composition of a reduction with a decider/verifier, gives a decider/verifier.

 The totality in every part result in totality in the sequence. The characteristic property of a reduction `the result is in L' iff the input is in L` helps transfering the decision/verification process, from L' to L.

## Bounds, bounds, bounds:
Since we're interested in complexity theory, rather than pure computability theory, some space and time bounds should be involved.
We will represent bounding functions as `nat => nat`. We need our bounding functions to be polynomial.
The theory developed by Manuel Eberl on polynomial growth is really helpful.
- ``poly p`` means that p is a polynomially bounded function.(so we can think of it as a polynomial in our context)
- ``make_mono`` takes a bounding function and returns one with more interesting properties:
     - ``make_mono p`` is always a monotonic increasing function. 
     - ``make_mono p `` is an upper bound for `p` i.e: for every  `x`: `p x <= make_mono p x`. So if a code is bounded by p then it is also bounded by ``make_mono p``
     - ``poly  p ==> poly (make_mono p)``


Let's start with time bounds:

### Time bounds:
- **time_bounded**: ``time_bounded c p`` is a predicate saying that code `c` is time bounded by the bounding function `p`. i.e. the code `c` run on any initial state will halt with a time cost that is bounded by `p (length x)` with `x` being the content of the register `input` at the beginning. 
- **poly_time_bounded** : a code is polynomially time bounded if there exists a polynomially bounded function that is bounding the code .

This already delivers a definition of the complexity class P: it is the set of problems/languages, who have a decider that is polynomially time bounded. One can see already the pros of the way we are approaching the problem. Through the presented abstractions we do separate the concepts if correctness and complexity (even though there's still a kind of intersection of both of them, since both will mean that the program always halt)

What about polynomial reductions? We try to define them as reductions that are polynomial time bounded. We know that sequencing a reduction and a decider would result in a decider for the "easier" language. So we will need to say that the sequencing of the polynomial reduction and the polynomial decider would also halt in a polynomial time. 

This is not as trivial as it sounds. The time bound of the second program does depend on its own input which is the result of the first program, not the initial input. So we need to also know that the result of the first program (i.e: the reduction) is bounded. 

### result bound:
- ** result_bounded**:  ``result_bounded c p`` iff c computes for every x some result

File: Complexity_classes_def/Time_Bound.thy [hunk 4]
```diff
@@ -0,0 +1,11 @@
+theory Bounds
```
Comment (notiho) [inline Complexity_classes_def/Time_Bound.thy]: This theory appears not to be used. Same for P;thy

File: Complexity_classes_def/Abstractions.thy [hunk 5]
```diff
@@ -0,0 +1,270 @@
...
+      between natural numbers and symbol sequences \<close>
+type_synonym lang = "nat set"
+
+paragraph \<open>Register conventions\<close>
+text \<open>
+\<bullet> The input for a program (indepentently of its purpose e.g: 
+computing a function, decision, verification) is expected to be in the register called ''input''
+\<bullet> The certificate (if needed) is expected to be found in the register ''certificate''
+\<bullet> The output/result/main result is expected to be found in the same register as the input.
+This allows to easily compose to obtain computing code of the composition of computable functions
```
Comment (notiho) [inline Complexity_classes_def/Abstractions.thy:106]: Personally, I find the terminology (computing) code a bit strange. Is it the same as "program"?

File: Complexity_classes_def/Abstractions.thy [hunk 6]
```diff
@@ -0,0 +1,270 @@
...
+                  (\<exists>t s'. (c,s)\<Rightarrow>\<^bsup>t\<^esup> s' \<and> s' ''input'' = r ))"
+
+
+paragraph \<open>Verification determinism\<close>
+text \<open>Analogously to computing, verifying is determinstic\<close>
+lemma verif_det:
+  assumes "verif f x z r" "verif f x z r'"
+  shows "r = r'"
+proof -
+  obtain s where "s =<''input'':=x,''certificate'':=z>" by simp
```
Comment (notiho) [inline Complexity_classes_def/Abstractions.thy]: Maybe just use `let`

File: Complexity_classes_def/Abstractions.thy [hunk 7]
```diff
@@ -0,0 +1,270 @@
...
+  assumes "comp f x y" "verif g y z r" "cons_certif f"
+  shows "verif (f;;g) x z r"
+  apply(simp add: verif_def comp_def)
+proof
+  fix s
+  show " s ''input'' = x \<and> s ''certificate'' = z \<longrightarrow>
+             (\<exists>t s'. (f;; g, s) \<Rightarrow>\<^bsup> t \<^esup> s' \<and> s' ''input'' = r)" 
+  proof
+    assume asm:" s ''input'' = x \<and> s ''certificate'' = z"
+    then obtain s' t1 where s'_def:"(f,s)\<Rightarrow>\<^bsup>t1\<^esup> s'" "s' ''input'' = y" "s' ''certificate'' =z"
```
Comment (notiho) [inline Complexity_classes_def/Abstractions.thy]: Use space after punctuation. In general, you could be a bit more consistent with where you put spaces

File: Complexity_classes_def/Abstractions.thy [hunk 8]
```diff
@@ -0,0 +1,270 @@
...
+
+
+definition is_verif :: "com \<Rightarrow> lang \<Rightarrow> bool" where
+"is_verif c L  \<equiv> (\<forall>x z. \<exists>r. verif c x z r) \<and> (\<forall>x. (x\<in>L \<longleftrightarrow> (\<exists>z. verif c x z 0))) "
+
+
+subsection \<open>Reverse verification\<close>
+
+paragraph \<open>Motivation\<close>
+text \<open>Although not a common term in computation theory. Reverse modification is useful later
```
Comment (notiho) [inline Complexity_classes_def/Abstractions.thy]: So is it something you came up with? Can you explain what its uses are?

File: Complexity_classes_def/BIt_Length.thy [hunk 9]
```diff
@@ -0,0 +1,8 @@
+theory Bit_Length
```
Comment (notiho) [inline Complexity_classes_def/BIt_Length.thy]: Appears to be unused

File: Complexity_classes_def/Bit_Length.thy [hunk 10]
```diff
@@ -0,0 +1,7 @@
+theory Bit_Length
```
Comment (notiho) [inline Complexity_classes_def/Bit_Length.thy:1]: So in the end, I also made a definition `bit_length` in my branch. However, I have defined `bit_length x = Discrete.log x + 1`, which imho has the advantage that `x <= 2 ^ (bit_length x)` , which I would expect from a definition called `bit_length`. However, I don't know whether I actually need that fact. Let's discuss on Monday

File: Complexity_classes_def/Bounds.thy [hunk 11]
```diff
@@ -0,0 +1,373 @@
...
+         by (metis (no_types, lifting) bigstepT_the_state fun_upd_same r_props(1) comp_def stepf(1))
+       hence "t2 \<le> pg(bit_length  r)" using stepg(2) by simp
+       hence "t2 \<le> make_mono pg (bit_length r)" using le_trans by blast
+       moreover have "make_mono pg (bit_length r) \<le> make_mono pg (pd (bit_length ?x))"
+         using r_props(2) mono_make_mono[of pg] incseq_def  by blast
+       ultimately have t2_ineq: "t2 \<le> (make_mono pg o pd)(bit_length ?x)" by fastforce
+       hence "(f;;g,s) \<Rightarrow>\<^bsup> t1+t2 \<^esup> s2"  "t1+t2 \<le> pf (bit_length ?x) + (make_mono pg o pd) (bit_length ?x)"
+         using stepf(1) stepg (1) apply blast
+          using add_mono stepf(2) t2_ineq by blast
+      thus "?thesis" by blast
```
Comment (notiho) [inline Complexity_classes_def/Bounds.thy]: Indention

File: Complexity_classes_def/Alternative_Bounds.thy [hunk 12]
```diff
@@ -0,0 +1,61 @@
+theory Alternative_Bounds
+  imports Bit_Length  Alternative_Abstractions "../IMP-/Big_StepT"  "../Polynomial_Growth_Functions"
+begin
+type_synonym bound_fun = "nat \<Rightarrow> nat"
+fun bit_size :: "val list \<Rightarrow> nat" where
```
Comment (notiho) [inline Complexity_classes_def/Alternative_Bounds.thy]: The names `bit_size` and `bit_length` are easily confused

File: Complexity_classes_def/Cook_Levin.thy [hunk 13]
```diff
@@ -0,0 +1,194 @@
+\<^marker>\<open>creator Bilel Ghorbel\<close>
+chapter \<open>The mighty Cook-Levin Theorem\<close>
+paragraph \<open>Summary\<close>
+text \<open>Stating the Cook-Levin theorem based on a homomorphism of SAT formulas.
```
Comment (notiho) [inline Complexity_classes_def/Cook_Levin.thy:4]: Can you explain this statement a little bit?

File: Complexity_classes_def/Cook_Levin.thy [hunk 14]
```diff
@@ -0,0 +1,194 @@
...
+       \<and> (\<forall>x. \<exists>f.    bit_length (encode_sat f) \<le> s_red ( bit_length x ) \<and> imp_to_sat x = f
+                   \<and> ( sat f  \<longleftrightarrow>
+                                        (\<exists>z. bit_length z \<le> p_cer (bit_length x) \<and>
+                                                      (\<forall>s t s'. s ''input'' = x 
+                                                      \<and> s ''certificate'' = z 
+                                                      \<and>(c, s) \<Rightarrow>\<^bsup> t \<^esup> s' \<longrightarrow> s' ''input'' = 0))
+                                        )
+                      )"
+  sorry
+text \<open>Prove for every NP program that it can be reduced to IMP_SAT using
```
Comment (notiho) [inline Complexity_classes_def/Cook_Levin.thy:71]: problem?

File: Complexity_classes_def/Cook_Levin.thy [hunk 15]
```diff
@@ -0,0 +1,194 @@
...
+lemma NP_reduces_SAT:
+  assumes "L \<in> NP"
+  shows "poly_reduces L IMP_SAT"
+proof -
+  obtain v p p_cer where pv_def:"poly p" "is_verif v L" "verif_time_bounded v p" "certif_bounded v p_cer"
+    "poly p_cer"
+    using assms
+    by (auto simp add: NP_def is_poly_verif_def poly_verif_time_bounded_def poly_certif_bounded_def)
+  have "poly p" "poly p_cer" using pv_def by auto
+  moreover have "\<forall>s. \<exists>t. Ex (big_step_t (v, s) t) \<and> t \<le> p (bit_length (s ''input'') + bit_length (s ''certificate''))" using pv_def(3)
```
Comment (notiho) [inline Complexity_classes_def/Cook_Levin.thy:84]: observe limitation on line length

File: Complexity_classes_def/Cook_Levin.thy [hunk 16]
```diff
@@ -0,0 +1,194 @@
...
+        using r_def s_def apply(simp add: verif_def) by blast
+      
+      have "s' ''input'' = 0" using s_def ts'_def(1) z_def by auto
+      hence "r = 0" using ts'_def(2) by simp
+      thus   "x \<in> L" using pv_def(2) using is_verif_def r_def by blast
+    qed
+    ultimately show ?thesis  by auto
+  qed
+  done
+ultimately show ?thesis by (auto simp add:poly_reduces_def is_polyreduction_def)
```
Comment (notiho) [inline Complexity_classes_def/Cook_Levin.thy]: indention

File: Complexity_classes_def/IMP-_Reductions.thy [hunk 17]
```diff
@@ -0,0 +1,166 @@
+\<^marker>\<open>creator Bilel Ghorbel\<close>
+chapter \<open>defining reductions using IMP- programs\<close>
+paragraph \<open>Summary\<close>
+text \<open>
+Reductions could be informally seen as transitions from a decision problem to another.
```
Comment (notiho) [inline Complexity_classes_def/IMP-_Reductions.thy:5]: translations?

File: Complexity_classes_def/IMP-_Reductions.thy [hunk 18]
```diff
@@ -0,0 +1,166 @@
...
+text \<open>
+A polyreduction is a reduction that is also polynomially bounded in time (in most literature)
+
+A necessary condition also for polyreduction is to be polynomially result-bounded
+(otherwise polyreduction would not be transitive)
+Yet, this condition is generally omitted in most literature, as TM is the commonly used model
+of computation, where the limitation in time implies a limitation in space. 
+As it is not the case in our model, we choose to add explicitly this condition.
+
+It is yet worth the mention, that given that program is a reduction hence
```
Comment (notiho) [inline Complexity_classes_def/IMP-_Reductions.thy:127]: Can't we also write programs in IMP- that only take input in one register and still produce output that is not polynomially bounded in the running time?

File: Complexity_classes_def/Main_Lemma_Spec.thy [hunk 19]
```diff
@@ -0,0 +1,7 @@
+theory Main_Lemma_Spec
```
Comment (notiho) [inline Complexity_classes_def/Main_Lemma_Spec.thy]: Appears unused

File: Complexity_classes_def/P.thy [hunk 20]
```diff
@@ -0,0 +1,315 @@
...
+  assume assms:"is_polyreduction f D D'"
+       "poly_time_bounded g" "decides g D'"
+  show "poly_time_bounded (f;;g) \<and> decides (f;;g) D "
+  proof
+    show "poly_time_bounded (f;;g)"
+      using assms is_polyreduction_def reduction_poly by auto
+  next 
+    show "decides (f;;g) D"
+      using assms(1) assms(3) reduction_decision_correct is_polyreduction_def by blast 
+qed
```
Comment (notiho) [inline Complexity_classes_def/P.thy]: indention

File: Complexity_classes_def/P.thy [hunk 21]
```diff
@@ -0,0 +1,315 @@
...
+paragraph \<open>NP definition\<close>
+text \<open>NP is the set of languages having a polyverifier\<close>
+definition NP :: "lang set" where
+"NP \<equiv> {L. \<exists>c. is_poly_verif c L}"
+
+
+
+
+subsection \<open>Sanity checks: reduction to a P/NP problem\<close>
+lemma p_sanity:
```
Comment (notiho) [inline Complexity_classes_def/P.thy]: Maybe consider changing the same to something that describes what the theorem states. Same for `np_sanity` below

File: Complexity_classes_def/P.thy [hunk 22]
```diff
@@ -0,0 +1,315 @@
...
+
+paragraph \<open>Assumptions\<close>
+text \<open>
+For this definition we will need an encoding/entupling AND decoding/detupling programs that convert
+couples of natural numbers into one natural number AND vice versa.
+
+Since we don't care what the programs are as long they satisfy some assumptions/properties
+we just state them AND assume them IN a local context.
+
+A next step could be proving that the cantor pairing function satifies them.
```
Comment (notiho) [inline Complexity_classes_def/P.thy]: Given the current limitations of IMP- , cantor doesn't seem like a good choice for a tupling function

File: Complexity_classes_def/P.thy [hunk 23]
```diff
@@ -0,0 +1,315 @@
...
+Verifiers AND deciders are a lot a like. While within P, it's about the existence of polynomially 
+bounded decider, within NP it's about polynomially bounded verifiers. 
+Hence if we encode the input AND certificate in one value. We could do the work of a verifier 
+using a decider who's able to decode them. 
+\<close>
+
+paragraph \<open>Assumptions\<close>
+text \<open>
+For this definition we will need an encoding/entupling AND decoding/detupling programs that convert
+couples of natural numbers into one natural number AND vice versa.
```
Comment (notiho) [inline Complexity_classes_def/P.thy]: In this sense, does "couple" mean the same as "tuple"?

File: Complexity_classes_def/P.thy [hunk 24]
```diff
@@ -0,0 +1,315 @@
...
+      using cert_lang_of_def by blast
+    hence "x' =x " using asm(2)  verif_entuple_det by blast
+    hence "verif v x z' 0" using def'(2) by blast
+    then obtain z'' where def'':"verif v x z'' 0" "bit_length z'' \<le> p (bit_length x)"
+      using p_def certif_bounded_def def'(2) by blast
+    obtain tu'' where tu''_def: "verif entuple x z'' tu''" using total_en by fast
+    moreover have "tu'' \<in> cert_lang_of v " 
+      using def''(1) def''(2) tu''_def cert_lang_of_def by blast
+    ultimately 
+show " \<exists>tu'. tu' \<in> cert_lang_of v \<and> (\<exists>z'. verif entuple x z' tu' \<and> bit_length z' \<le> p (bit_length x))"
```
Comment (notiho) [inline Complexity_classes_def/P.thy]: indention

**Review by notiho — COMMENTED** [review]
Hi, some small issues I found looking through the theories

File: Complexity_classes_def/Abstractions.thy (hunk 7 above)
Comment (BilelGho) [reply Complexity_classes_def/Abstractions.thy]: is there a way to auto format it ? I have to admit I'm really careless when it comes to such things

File: Complexity_classes_def/Abstractions.thy (hunk 8 above)
Comment (BilelGho) [reply Complexity_classes_def/Abstractions.thy]: Yes totally. and I fell bad about the used terminology and I could use any suggestions for it. 
It's only unique use is just to find a convenient abstraction while working on defining NP using P.

File: Complexity_classes_def/Bit_Length.thy (hunk 10 above)
Comment (BilelGho) [reply Complexity_classes_def/Bit_Length.thy:1]: wouldn't really affect any part of my work how to define bit_length. So yeah why not

File: Complexity_classes_def/Cook_Levin.thy (hunk 13 above)
Comment (BilelGho) [reply Complexity_classes_def/Cook_Levin.thy:4]: we're not actually working directly on the formulas. We're supposing there exists some encoding (that we actually write in HOL not in IMP-) and that leads from propositional logic formulas to nat

File: Complexity_classes_def/Cook_Levin.thy (hunk 14 above)
Comment (BilelGho) [reply Complexity_classes_def/Cook_Levin.thy:71]: it's actually the main-lemma on the HOL level. we should link all the work together to be able to prove it.

File: Complexity_classes_def/IMP-_Reductions.thy (hunk 18 above)
Comment (BilelGho) [reply Complexity_classes_def/IMP-_Reductions.thy:127]: if you don't make the restriction that the output is only depending on that single register than yeah. Otherwise that register could contain anything and there's no bound you can make that is independent of the initial state

File: Complexity_classes_def/P.thy (hunk 23 above)
Comment (BilelGho) [reply Complexity_classes_def/P.thy]: yep. isn't a 2-tuple a couple ?

File: Complexity_classes_def/P.thy (hunk 22 above)
Comment (BilelGho) [reply Complexity_classes_def/P.thy]: I don't think so but we'll discuss that.
